US06107329
(±)-5-Chloro-1H-indole-2-carboxylic acid [2-oxo-2-thiazolidin-3-yl-1-(3-trifluoromethyl-benzyl)-ethyl]-amide
From 5-chloro-1H-indole-2-carboxylic acid and (±)-2-amino-3-(3-trifluoromethyl-phenyl)-1-thiazolidin-3-yl-propan-1-one. mp 205-207° C.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | (±)-2-amino-3-(3-trifluoromethyl-phenyl)-1-thiazolidin-3-yl-propan-1-one | NC(C(=O)N1CSCC1)CC1=CC(=CC=C1)C(F)(F)F | C13H15F3N2OS
product | (±)-5-Chloro-1H-indole-2-carboxylic acid [2-oxo-2-thiazolidin-3-yl-1-(3-trifluoromethyl-benzyl)-ethyl]-amide | O=C(C(CC1=CC(=CC=C1)C(F)(F)F)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)N1CSCC1 | C22H19ClF3N3O2S
